US07253196B2
5-Isopropyl-5-methoxy-2-(tricyclo[3.3.1.13,7]decan-1-ylamino)-thiazol-4-one
A mixture of 5-(1-methylethyl)-2-(tricyclo[3.3.1.13,7]dec-1-ylamino)-1,3-thiazol-4(5H)-one (146 mg, 0.5 mmol) and NBS (107 mg, 0.6 mmol) in CCl4 (60 mL) was stirred at reflux for 30 min. The resulting mixture was cooled to 0° C., and filtered to remove the solid. The residue was then concentrated in vacuo and diluted with CH2Cl2 (20 mL). To this mixture was added MeOH (200 uL) and DIEA (200 uL). The mixture was stirred for 30 min, then was concentrated in vacuo and purified by flash chromatography (4:1; Hexane:EtOAc) to give the title compound as white solid. MS (ES+): 323 (M+H)+.

reactant | 5-(1-methylethyl)-2-(tricyclo[3.3.1.13,7]dec-1-ylamino)-1,3-thiazol-4(5H)-one | 0.5 mmol, 146 mg | CC(C)C1C(N=C(S1)NC12CC3CC(CC(C1)C3)C2)=O | C16H24N2OS
reactant | NBS | 0.6 mmol, 107 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CCl4 | 60 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-Isopropyl-5-methoxy-2-(tricyclo[3.3.1.13,7]decan-1-ylamino)-thiazol-4-one | C(C)(C)C1(C(N=C(S1)NC12CC3CC(CC(C1)C3)C2)=O)OC | C17H26N2O2S
